US04098790
810 mg. of D-6-methyl-8-cyanomethylergoline were suspended in 50 ml. acetonitrile and the suspension cooled to -5° to 0° C. 1.25 ml. of boron trifluoride etherate were added thus solubilizing the ergoline. Next, a solution of 0.27 ml. of sulfuryl chloride in 20 ml. of methylene dichloride was added in dropwise fashion. The reaction mixture was stirred and cooled for 30 minutes, then diluted with ammonium hydroxide. The diluted solution was extracted with a chloroform-isopropanol 3:1 solvent mixture. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, dried and the solvent evaporated. The residue comprising lergotrile formed in the above chlorination procedure was chromatographed over fluorosil using chloroform containing 2 percent methanol as the eluant; 660 mg. of lergotrile were obtained melting at 268°-271° C. (with decomposition), 72 percent yield.

reactant | D-6-methyl-8-cyanomethylergoline | CN1C[C@@H](CC2[C@H]1CC3=CNC4=CC=CC2=C34)CC#N | C17H19N3
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | ergoline | C1CN[C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34 | C14H16N2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | lergotrile | 72 percent yield | CN1C[C@@H](C[C@H]2[C@H]1CC=3C=4C2=CC=CC4NC3Cl)CC#N | C17H18ClN3
